US04678795
Thionylchloride (23.8 g) was added to 6-methylthionicotinic acid (15.3 g) (from the above referential example 1a). The reaction mixture was gradually heated with stirring and refluxed until the generation of hydrogen chloride ceased. 6-methylthionicotinoylchloride was stoichiometricly obtained by distilling off excess thionylchloride under reduced pressure. 6-methylthionicotinoylchloride dissolved in ether was added dropwise to 20% aqueous solution of sodium borohydride (6.5 g) at 0°~10° C. After adding, the mixture was stirred for one hour and the ether layer was separated and dried. The ether layer was evaporated under reduced pressure to give 2-methylthiopyridine-5-methanol (9.6 g). nD22 1.6084

reactant | Thionylchloride | 23.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | 6-methylthionicotinic acid | 15.3 g | CC1=NC=C(C(=S)O)C=C1 | C7H7NOS
reactant | hydrogen chloride | Cl | ClH
product | 6-methylthionicotinoylchloride | CC1=NC=C(C(=S)Cl)C=C1 | C7H6ClNS
